US08835099B2
Vinylphosphonic Acid/Acrylamide Copolymer (Molar Ratio of 1:9) (I-1)
In a 10 liter flask equipped with a stirrer, a capacitor and a dropping device, 3,500 g of ethanol was changed and heated to 70° C. Then, 231.1 g (2.14 mol) of a vinylphosphonic acid monomer, 1368.9 g (19.26 mol) of acrylamide and 52 g of AIBN were dissolved in 1,000 g of ethanol and the obtained solution was added dropwise in a reactor over 4 hours. During the dropwise addition of a monomer solution, a white precipitate was produced. After heating and stirring for 2 hours while maintaining at 70° C., heating was stopped and the reaction solution was cooled to room temperature. The precipitate thus produced was collected by filtration under reduced pressure and then washed with 1,000 g of ethanol. The precipitate was vacuum-dried at 40° C. for 24 hours to obtain a white fine crystal. Yield: 1,550 g

reactant | vinylphosphonic acid | 2.14 mol, 231.1 g | C(=C)P(O)(O)=O | C2H5O3P
reactant | acrylamide | 19.26 mol, 1368.9 g | C(C=C)(=O)N | C3H5NO
reactant | AIBN | 52 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | ethanol | 1,000 g | C(C)O | C2H6O
solvent | ethanol | 3,500 g | C(C)O | C2H6O
product | Vinylphosphonic Acid Acrylamide | C(=C)P(O)(O)=O.C(C=C)(=O)N | InChI=1S/C3H5NO.C2H5O3P/c1-2-3(4)5;1-2-6(3,4)5/h2H,1H2,(H2,4,5);2H,1H2,(H2,3,4,5)
